US07151105B2
Step 2: 1-(2-Fluoroethyl)-3,5-dimethyl-1H-pyrazole-4-carbaldehyde
To DMF (56 g, 0.75 mol) was added POCl3 (74.55 mL, 0.8 mol) at 0° C. After 30 minutes, to the formed Vilsmaier reagent was added 1-(2-fluoroethyl)-3,5-dimethyl-1H-pyrazole (88 g, 0.62 mol), and the reaction mixture was heated for 16 h at 80° C. The reaction mixture was diluted with dichloromethane (400 mL) and treated with potassium carbonate (600 g) in water (2 L) at 0° C. The organic layer was separated, passed through silica gel (10×10 cm), and evaporated. The liquid residue was crystallized from a mixture of hexane (100 mL) and ether (200 mL), separated by filtration, and dried in vacuo using an oil pump to give 26.3 g (24.9%) of the title product. Satisfactory C,H,N-analysis was obtained. 1H NMR (400 MHz, DMSO-d6): δ 2.33 (s, 3H), 2.48 (s, 3H), 4.36 (dt, J=28 Hz, J=5 Hz, 2H), 4.74 (dt, J=44 Hz, J=5 Hz, 2H), 9.85 (s, 1H). GC-MS calcd for C8H11FN2O: 170.09, found (M+): 170 m/z.

reactant | DMF | 0.75 mol, 56 g | CN(C)C=O | C3H7NO
reactant | POCl3 | 0.8 mol, 74.55 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 1-(2-fluoroethyl)-3,5-dimethyl-1H-pyrazole | 0.62 mol, 88 g | FCCN1N=C(C=C1C)C | C7H11FN2
reactant | potassium carbonate | 600 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | water | 2 L | O | H2O
product | 1-(2-Fluoroethyl)-3,5-dimethyl-1H-pyrazole-4-carbaldehyde | 26.3 g, 24.9% | FCCN1N=C(C(=C1C)C=O)C | C8H11FN2O
